US05047540
To a solution of 1.23 g (2.22 mM) of 3-(4-chlorobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane IIIa5 in 20 ml of methyl ethyl ketone is added 0.67 g (4.44 mM) of sodium iodide and the mixture is heated for 3 hours with stirring. After the solvent is evaporated, the residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (1:1) mixture as an eluent. The product is recrystallized from chloroform-n-hexane to give 1.16 g (1.79 mM) of 3-(4-iodobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane IIa5 in 81% yield.

reactant | 3-(4-chlorobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 2.22 mM, 1.23 g | ClCCCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C27H55ClN2O5S
reactant | sodium iodide | 4.44 mM, 0.67 g | [I-].[Na+]
solvent | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | 3-(4-iodobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 1.79 mM, 1.16 g, 81% yield | ICCCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C27H55IN2O5S
